US08623859B2
N-{[5-({4-[(6-Chloropyridin-3-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide
The title compound was prepared according to general procedure CD using 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide (210 mg, 0.50 mmol), 6-chloropyridine-3-carbaldehyde (84 mg, 0.60 mmol), STAB (210 mg, 0.99 mmol) DCE (4.0 mL) and a few 4 Å molecular sieves. The crude product recrystallised from IPA/MeOH/DCM.

reactant | 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | 0.50 mmol, 210 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCNCC1)C)C | C18H25N5O5S
reactant | 6-chloropyridine-3-carbaldehyde | 0.60 mmol, 84 mg | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | DCE | 0.99 mmol, 4.0 mL, 210 mg | ClCCCl | C2H4Cl2
product | N-{[5-({4-[(6-Chloropyridin-3-yl)methyl]piperazin-1-yl}carbonyl)-1,3,4-oxadiazol-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide | ClC1=CC=C(C=N1)CN1CCN(CC1)C(=O)C1=NN=C(O1)CN(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C24H29ClN6O5S
